US07759337B2
Step 3: (S)-7-(6-chlorophthalazin-1-yl)-tetrahydro-1H-oxazolo[3,4-a]pyrazin-3(5H)-one
A mixture of (S)-tetrahydro-1H-oxazolo[3,4-a]pyrazin-3(5H)-one (1.42 g, 10.000 mmol), 1,6-dichlorophthalazine (1.47 g, 7.39 mmol) and N,N-DIPEA (5.00 mL, 30.0 mmol) in 12 mL DMF was heated at 135° C. The crude material was purified by flash chromatography eluting with 2 M NH3 in MeOH/CH2Cl2 (0:1→3:97) to give 1.85 g of a brown oil. MS m/z: 305.1, 307.1 [M+1].

reactant | (S)-tetrahydro-1H-oxazolo[3,4-a]pyrazin-3(5H)-one | 10.000 mmol, 1.42 g | C1OC(N2[C@H]1CNCC2)=O | C6H10N2O2
reactant | 1,6-dichlorophthalazine | 7.39 mmol, 1.47 g | ClC1=NN=CC2=CC(=CC=C12)Cl | C8H4Cl2N2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | (S)-7-(6-chlorophthalazin-1-yl)-tetrahydro-1H-oxazolo[3,4-a]pyrazin-3(5H)-one | 1.85 g | ClC=1C=C2C=NN=C(C2=CC1)N1C[C@@H]2N(CC1)C(OC2)=O | C14H13ClN4O2
